US05958918
A. 4,5-Dichlorothiophene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]benzylamide
The title compound is prepared as described in EXAMPLE 25, Part A using 4,5-dichlorothiophene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide, prepared as described in EXAMPLE 80, part A, and benzyl iodide. The crude product is purified by column chromatography eluting with gradient of 20% EtOAc/hexanes to 40% EtOAc/hexanes to afford the title compound as a white foam.

reactant | 4,5-dichlorothiophene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C=1C=C(CN2C([C@H](CC2)NS(=O)(=O)C=2SC(=C(C2)Cl)Cl)=O)C=CC1 | C16H13Cl2N3O3S2
reactant | benzyl iodide | C(C1=CC=CC=C1)I | C7H7I
product | 4,5-Dichlorothiophene-2-sulfonic acid [1-(3-cyanobenzyl)-2-oxopyrrolidin-3-(S)-yl]benzylamide | C(#N)C=1C=C(CN2C([C@H](CC2)N(S(=O)(=O)C=2SC(=C(C2)Cl)Cl)CC2=CC=CC=C2)=O)C=CC1 | C23H19Cl2N3O3S2
